US04346251
Synthesis of 4-Phenyl-2-Indanol (Method B)
A solution of the 79.6 g of oil and 0.1 g of p-toluene-sulfonic acid in 350 ml of toluene was heated at reflux for 15-20 minutes during which a toluene/water azeotrope collected in a Dean-Stark trap. The mixture was cooled, placed on a silica gel chromatography column, and eluted first with toluene, then with 1:1 toluene/ethyl acetate. Appropriate fractions were combined and concentrated to give, after crystallization from toluene, 44.5 g of 4-phenyl-2-indanol, mp 71°-73° C. The nmr spectrum was consistent with the proposed structure.

reactant | p-toluene-sulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene water | C1(=CC=CC=C1)C.O
reactant | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Phenyl-2-Indanol | C1(=CC=CC=C1)C1=C2CC(CC2=CC=C1)O | C15H14O
